US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-(isopropylamino)-1-benzothiophene-2-carboxamide dihydrochloride
A solution of 150 mg (0.40 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride and 48 μl (0.65 mmol) of acetone in 1.5 ml of 1,2-dichloroethane is adjusted to pH 4 using acetic acid. 254.8 mg (1.20 mmol) of sodium triacetoxyborohydride are added, and the mixture is stirred at RT for 6 h. The contents of the flask are concentrated under reduced pressure and purified by preparative HPLC. The product fractions are concentrated and the residue is dissolved in a 5:1 mixture of acetonitrile and 1N hydrochloric acid, then again concentrated and dried under high vacuum. 49 mg (29.4% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.40 mmol, 150 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | acetone | 0.65 mmol, 48 μl | CC(=O)C | C3H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.20 mmol, 254.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-(isopropylamino)-1-benzothiophene-2-carboxamide dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(C)C | InChI=1S/C19H25N3OS.2ClH/c1-12(2)20-15-4-3-14-9-18(24-17(14)10-15)19(23)21-16-11-22-7-5-13(16)6-8-22;;/h3-4,9-10,12-13,16,20H,5-8,11H2,1-2H3,(H,21,23);2*1H/t16-;;/m0../s1
